US07468365B2
In a 22 L vessel, under nitrogen, 1-amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one (438 g, 2.3 mol) was heated (about 40° C.) to provide a solution in methanol (4.38 mL). In another flask, di-p-toluoyl-l-tartaric acid (889.7 g, 2.3 mol) was dissolved in 4.38 L of methanol and heated to about 40° C. before the solution of 1-amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one was added. The heating was continued and an additional 6.13 L of methanol was added before the mixture was refluxed for about 45 minutes and then slowly cooled to ambient temperature to give a solid. After stirring for about 18 hours, the solid was collected by filtration and rinsed with a small amount of mother liquors, and after air drying, with about 2 L of ethyl acetate to give 561.6 g of (S)-1-amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one di-p-toluoyl-L-tartaric acid salt. Combine (S)-1-amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one di-p-toluoyl-L-tartaric acid salt, dichloromethane (6.57 L) and 1N aqueous sodium hydroxide solution (6.57 L) and agitate. Separate the layers and extract the organic layer twice with and 1N aqueous sodium hydroxide solution (3.28 L), once with brine (2.46 L) before drying over magnesium sulfate, filtering, and evaporating on a rotary evaporator to give the title compound 250g (57.4%, 94.1% ee).

reactant | 1-amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one | 2.3 mol, 438 g | NC1C(N(CCC2=C1C=CC=C2)C)=O | C11H14N2O
reactant | di-p-toluoyl-l-tartaric acid | 2.3 mol, 889.7 g | C1(=CC=C(C=C1)C(=O)[C@]([C@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C | C20H18O8
solvent | methanol | 4.38 mL | CO | CH4O
solvent | methanol | 4.38 L | CO | CH4O
solvent | methanol | 6.13 L | CO | CH4O
product | (S)-1-amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one di-p-toluoyl-L-tartaric acid salt | 561.6 g | C1(=CC=C(C=C1)C(=O)[C@]([C@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.N[C@@H]1C(N(CCC2=C1C=CC=C2)C)=O | InChI=1S/C20H18O8.C11H14N2O/c1-11-3-7-13(8-4-11)15(21)19(27,17(23)24)20(28,18(25)26)16(22)14-9-5-12(2)6-10-14;1-13-7-6-8-4-2-3-5-9(8)10(12)11(13)14/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);2-5,10H,6-7,12H2,1H3/t19-,20-;10-/m00/s1
